US05869490
2-[4-(1H-Indol-4-yl)-piperazin-1-ylmethyl]-2,3,8,9-tetrahydro-7H-1.4-dioxino[2.3-e]indol-8-one
(R)-2-(Toluene-4-sulfonyloxymethyl)-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one (1.0 g, 2.7 mmole) and 4-(1H-indol-4-yl)-piperazine (2.0 g, 10 mmole) were combined in 30 ml of dry DMSO and heated to 80° C. for 4 hours under an argon atmosphere. After cooling to room temperature, the mixture was diluted with 400 ml of 1:1 ethyl acetate/hexane and washed with 400 ml of saturated sodium bicarbonate solution, with two 250 ml portions of water and with saturated brine. The mixture was dried over sodium sulfate, filtered and concentrated in vacuum to yield an oil, which was column chromatographed on silica gel using 0.5% methanol/CHCl3 as eluant. The free base of the title compound (0.80 g) thus obtained was crystallized from methanol with the addition of one equivalent of fumaric acid to give 077 g of the (S) enantiomer of the title compound as a white solid fumarate, m.p. 237°-238° C.

reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-2,3,8,9-tetrahydro-7H-1,4-dioxino[2,3-e]indol-8-one | 2.7 mmole, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3CC(NC3=CC2)=O)O1)C | C18H17NO6S
reactant | 4-(1H-indol-4-yl)-piperazine | 10 mmole, 2.0 g | N1C=CC2=C(C=CC=C12)N1CCNCC1 | C12H15N3
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate hexane | 400 ml | C(C)(=O)OCC.CCCCCC
product | 2-[4-(1H-Indol-4-yl)-piperazin-1-ylmethyl]-2,3,8,9-tetrahydro-7H-1.4-dioxino[2.3-e]indol-8-one | 0.80 g | N1C=CC2=C(C=CC=C12)N1CCN(CC1)CC1COC=2C(=C3CC(NC3=CC2)=O)O1 | C23H24N4O3
